Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]=[C:5]1[O:6][C@:7]1([H:8])[C:9]([H:10])([H:11])[H:12],-1.97562836401
[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3](=[C:4](/[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.27109558036
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2],5.3666751271800015
[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[O:5]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-0.0160071098508
[C:3]#[C:4][C:5]([H:6])([H:7])[H:8].[O:1]=[C:2]=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11],-3.0067898055799995
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][H:7]>>[H:5].[O:1]=[C:2]([H:3])[C:4][O:6][H:7],4.72056889038
[C:4]#[C:5][O:6][C:7]([H:8])[H:9].[H:1][O:2][C:3]>>[H:1][O:2][C:3]#[C:4][C:5][O:6][C:7]([H:8])[H:9],-4.39858283856
[H:12].[H:1][C:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][C:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.98494323559
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[O:8][H:9]>>[C:7][O:8][H:9].[H:1][C:2]#[C:3][O:4][C:5][H:6],4.517339188969999
[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.914475097647
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[H:1].[O:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],0.7378471842479999
[O:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][H:7],3.62397486725
[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.7684093847
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1],5.96605199572
[H:1][O:2]/[C:3](=[C:4]/[C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:3](#[C:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2],3.3068304976
[H:12].[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.4115834961900005
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([O:8])([H:9])[H:10]>>[C:1]#[C:2].[C:3]([H:4])=[C:5]([H:6])[C:7]([O:8])([H:9])[H:10],6.04289460939
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C@@:8]([H:9])([C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],1.75607181528
[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.2460834488700003
[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[C:2]([H:3])=[C:4]([H:5])[H:6].[O:1],5.67252542031
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]#[C:3][O:4][C:5][H:6],3.72564634057
[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([C:6]([H:7])=[O:8])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.63412095361
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[O:9],4.60946554617
[O:1]=[C:2]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:3][H:4]>>[O:1][C@@:2]([O:3][H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.22434422237
[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[O:1]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-7.861548901310001
[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],2.18596236942
[C:1].[C:2]=[C:3]([O:4][H:5])[O:6][H:7]>>[C:1]#[C:2][C:3]([O:4][H:5])[O:6][H:7],-8.156326496230001
[C:4]([H:5])([H:6])[H:7].[O:1]=[C:2]([H:3])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-0.6463746126600001
[O:1][C:2]#[C:3][C:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:6].[O:1][C:2]#[C:3][C:4]#[C:5][C:7]([H:8])([H:9])[H:10],3.71443319795
